US08193372B2
(2,4-Dimethyl-phenyl)-phosphonic acid dimethyl ester
4-Iodo-m-xylene (8.62 mmol), trimethyl phosphite (12.07 mmol) and palladium acetate (0.86 mmol) were mixed together in acetonitrile (12 ml), in a microwave tube. The vessel was sealed and placed in a microwave to react at 160° C., for 45 minutes. After cooling to room temperature, acetonitrile was removed. The crude material was purified by silica gel chromatography to yield Intermediate I.4 as an oil (95%). Intermediate 1.4 was characterized by the following spectroscopic data: 1H NMR (CDCl3, 400 MHz) δ (ppm) 2.35 (s, 3H), 2.51 (s, 3H), 3.74 (d, J=12.0 Hz, 6H), 7.08-7.09 (m, 2H), 7.75-7.81 (m, 1H); 31P NMR (CDCl3, 162 MHz) δ (ppm) 23.18 (s, 1P); and MS (ESI, EI+) m/z=215 (MH+)

reactant | 4-Iodo-m-xylene | 8.62 mmol | IC1=C(C=C(C=C1)C)C | C8H9I
reactant | trimethyl phosphite | 12.07 mmol | P(OC)(OC)OC | C3H9O3P
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.86 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2,4-Dimethyl-phenyl)-phosphonic acid dimethyl ester | 95% | COP(OC)(=O)C1=C(C=C(C=C1)C)C | C10H15O3P
